US06777407B2
D. 2-(2,3,3a,8b-Tetrahydrocyclopenta[b]Indol-4(1H)-yl)Ethylamine
2-(2,3,3a,8b-Tetrahydrocyclopenta[b]indol-4(1H)-yl)acetamide (90 mmol, 20 g) was dissolved in 1 M BH3.THF (200 mL) and heated to reflux for 18 h. The reaction mixture was allowed to cool to room temperature and then quenched slowly with methanol. The solution was concentrated, dissolved in methanol, and again concentrated. The resulting oil was diluted with ether and extracted twice with 1 N HCl. The aqueous phase was treated with 2.5 N NaOH to pH>10 and extracted with chloroform. The combined chloroform extracts were dried over MgSO4, filtered and concentrated to provide a yellow oil which was used without further purification.

reactant | 2-(2,3,3a,8b-Tetrahydrocyclopenta[b]indol-4(1H)-yl)acetamide | 90 mmol, 20 g | C1CCC2N(C=3C=CC=CC3C21)CC(=O)N | C13H16N2O
solvent | BH3.THF | 1 M, 200 mL | B.C1CCOC1
product | 2-(2,3,3a,8b-Tetrahydrocyclopenta[b]Indol-4(1H)-yl)Ethylamine | C1CCC2N(C=3C=CC=CC3C21)CCN | C13H18N2
